US07030134B2
1-[5-Chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol (1.05 g, 3.14 mmol) in chloroform (100 mL) was treated with manganese dioxide (6.82 g, 78.5 mmol) as described in Example 12 to give 1-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one (0.99 g, 100%) as a pale yellow solid. 1H NMR (CDCl3) δ 8.50 (d, 1H), 8.46 (d, 1H), 7.64 (d, 2H), 7.04 (dd, 1H), 6.98 (d, 2H), 3.87 (s, 3H), 2.99 (s, 1H); MS m/z 295 (M+1).

reactant | 1-[5-Chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-ol | 3.14 mmol, 1.05 g | ClC1=CC=2N(C=C1)N=C(C2C(C#C)O)C2=CC=C(C=C2)OC | C17H13ClN2O2
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 78.5 mmol, 6.82 g | [O-2].[O-2].[Mn+4]
product | 1-[5-chloro-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-propyn-1-one | 0.99 g, 100% | ClC1=CC=2N(C=C1)N=C(C2C(C#C)=O)C2=CC=C(C=C2)OC | C17H11ClN2O2
